US06048884
621 mg of t-butyl (S)-N-(2-hydroxy-3-phenoxypropyl)-N-[2-(4-aminophenyl)ethyl]carbamate and 403 mg of 2-(2-methylthiazol-4-yl) acetic acid were subjected to an amidation reaction to obtain 765 mg of t-butyl (S)-N-(2-hydroxy-3-phenoxypropyl)-N-[2-[4-[[2-(2-methylthiazol-4-yl)acetyl]-amino]phenyl]ethyl]carbamate.

reactant | t-butyl (S)-N-(2-hydroxy-3-phenoxypropyl)-N-[2-(4-aminophenyl)ethyl]carbamate | 621 mg | O[C@@H](CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)N)COC1=CC=CC=C1 | C22H30N2O4
reactant | 2-(2-methylthiazol-4-yl) acetic acid | 403 mg | CC=1SC=C(N1)CC(=O)O | C6H7NO2S
product | t-butyl (S)-N-(2-hydroxy-3-phenoxypropyl)-N-[2-[4-[[2-(2-methylthiazol-4-yl)acetyl]-amino]phenyl]ethyl]carbamate | 765 mg | O[C@@H](CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)NC(CC=1N=C(SC1)C)=O)COC1=CC=CC=C1 | C28H35N3O5S
